US07897595B2
A mixture of 2-methoxy-5-methyl-3-nitro-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine (2.00 g, 6.00 mmol), HBr/AcOH (33 wt %, 20 ml) and H20 (5 ml) was stirred for 10 min at room temperature. The reaction was parted between sat. aq. NaHCO3 and EtOAc. The organic phased was dried and concentrated in vacuo to give 1.68 g (88%) of pure 5-methyl-3-nitro-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepin-2-ol. 1H-NMR (CDCl3) δ 8.42 (s, 1H), 4.20-3.20 (m, 8H), 1.45 (d, 1.2H), 1.39 (d, 1.8H) ppm. A mixture of 5-methyl-3-nitro-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepin-2-ol (1.63 g, 5.10 mmol), Bu4NBr (4.94 g, 15.3 mmol), P2O5 (3.62 g, 12.8 mmol) and toluene (100 ml) was heated to 110° C. for 5 h. The reaction was cooled to room temperature and the liquid part was decanted and concentrated in vacuo to give 1.25 g (64%) of pure 2-bromo-5-methyl-3-nitro-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine. 1H-NMR (CDCl3) δ 8.05 (s, 1H), 3.80 (m, 3H), 3.60-3.25 (m, 4H), 1.41 (d, 1.2H), 1.35 (d, 1.8H) ppm. Concurent reduction of the nitro group and halogene on was carried out with 5% Pd/C in MeOH under H2 (1 atm) to give 1.20 g (97%) of pure 5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepin-3-amine. 1H-NMR of rotamers (MeOH-d4) δ 7.77 (2× d, 1H), 7.62 (d, 0.4H), 7.58 (d, 0.6H), 4.10-3.35 (m, 7H), 1.42 (d, 1.3H), 1.35 (d, 1.7H) ppm. A mixture of 5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepin-3-amine (130 mg, 476 μmol), K2CO3 (100 mg), MeOH (6 ml) and H2O (1 ml) was stirred for 16 h at room temprature. The reaction mixture was parted between aq. NaHCO3 and DCM, the organic layer was dried and then concentrated in vacuo. The resulting residue was purified by column chromatography to yield 20.0 mg (24%) of 5-methyl-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepin-3-amine. 1H-NNMR (MeOH-d4) δ 7.68 (s, 1H), 7.24 (s, 1H), 3.45-2.95 (m, 7H), 1.37 (d, 3H) ppm.

reactant | 2-methoxy-5-methyl-3-nitro-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine | 6.00 mmol, 2.00 g | COC=1C(=CC2=C(CCN(CC2C)C(C(F)(F)F)=O)N1)[N+](=O)[O-] | C13H14F3N3O4
reactant | HBr AcOH | 20 ml | Br.CC(=O)O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-methyl-3-nitro-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepin-2-ol | 1.68 g, 88% | CC1C2=C(CCN(C1)C(C(F)(F)F)=O)N=C(C(=C2)[N+](=O)[O-])O | C12H12F3N3O4
